US07645789B2
2-Aminobenzyl alcohol (60.0 g, 0.487 mol) was dissolved in acetonitrile (2.5 L) and brought to reflux. Triphenylphosphine hydrobromide (167 g, 0.487 mol) was added and the mixture was heated at reflux for 3 h. The reaction mixture was concentrated to approximately 500 mL and left at room temperature for 1 h. The precipitate was filtered and washed with cold acetonitrile followed by hexane. The solid was dried overnight at 40° C. under vacuum to give triphenyl(2-aminobenzyl)phosphonium bromide (193 g, 88%).

reactant | 2-Aminobenzyl alcohol | 0.487 mol, 60.0 g | NC1=C(CO)C=CC=C1 | C7H9NO
reactant | Triphenylphosphine hydrobromide | 0.487 mol, 167 g | Br.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | acetonitrile | 2.5 L | C(C)#N | C2H3N
product | triphenyl(2-aminobenzyl)phosphonium bromide | 193 g, 88% | [Br-].C1(=CC=CC=C1)[P+](CC1=C(C=CC=C1)N)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C25H23NP.BrH/c26-25-19-11-10-12-21(25)20-27(22-13-4-1-5-14-22,23-15-6-2-7-16-23)24-17-8-3-9-18-24;/h1-19H,20,26H2;1H/q+1;/p-1
